### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/SesquilinearForm): adding orthogonality lemmas

### PR DESCRIPTION
**Pull request by martinwintermath**
Add the features proposed in #34007 to align with `PointedCone.dual`.

Other noteworthy changes:
* rename `mem_orthogonalBilin_iff` to `mem_orthogonaBilin` to align the API with `PointedCone.mem_dual`.
* generalize `orthogonal_span_singleton_eq_to_lin_ker`, and rename to `orthogonalBilin_span_singleton`.
* rename `le_orthogonalBilin_orthogonalBilin` to `IsRefl.le_orthogonalBilin_orthogonalBilin` in order to free the name for a new version that does not assume `IsRefl`.

---

- [x] depends on: #37963

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 1]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
   add_mem' {u v} hu hv x hx := by simp [hu _ hx, hv _ hx]
   smul_mem' c y hy x hx := by simp [hy _ hx]
 
-@[simp] theorem mem_orthogonalBilin_iff {m : M₂} :
+@[simp] theorem mem_orthogonalBilin {m : M₂} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:54]: What was wrong with the previous name?

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 2]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
   m ∈ S.orthogonalBilin B ↔ ∀ n ∈ S, B n m = 0 := .rfl
 
+@[deprecated (since := "2026-06-19")]
+alias mem_orthogonalBilin_iff := mem_orthogonalBilin
+
+theorem mem_orthogonalBilin_iff_le_ker_flip {y : M₂} :
+    y ∈ orthogonalBilin B S ↔ S ≤ ker (B.flip y) := .rfl
+
+@[simp high] theorem mem_orthogonalBilin_span (s : Set M₁) {y : M₂} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
@[simp high] theorem mem_orthogonalBilin_span {s : Set M₁} {y : M₂} :
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 3]
```diff
@@ -90,22 +243,10 @@ theorem span_singleton_inf_orthogonal_eq_bot (B : V₁ →ₛₗ[J₁] V₁ →
       (fun y ↦ by simpa using y)
       (fun hfalse ↦ False.elim <| hx hfalse)
 
--- ↓ This lemma only applies in fields since we use the `mul_eq_zero`
-theorem orthogonal_span_singleton_eq_to_lin_ker {B : V →ₗ[K] V →ₛₗ[J] V₂} (x : V) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:94]: can you mention in the description that you're generalizing this (as well as renaming of course)

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 4]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+end
+
+section Map
+
+variable {M₁' : Type*} [AddCommMonoid M₁'] [Module R₁ M₁']
+
+theorem orthogonalBilin_eval_map (q : M₁ →ₗ[R₁] M₁') (S : Submodule R₁ M₁) :
+    orthogonalBilin (Dual.eval R₁ M₁') (S.map q)
+      = comap q.dualMap (orthogonalBilin (Dual.eval R₁ M₁) S) := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
    orthogonalBilin (Dual.eval R₁ M₁') (S.map q) =
      comap q.dualMap (orthogonalBilin (Dual.eval R₁ M₁) S) := by
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 5]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+/-- Every submodule is contained in the orthogonal complement of its orthogonal complement. -/
+theorem le_orthogonalBilin_orthogonalBilin :
+    S ≤ orthogonalBilin B.flip (orthogonalBilin B S) := fun _x hx _y hy ↦ hy _ hx
+
 section IsRefl
 
 variable {I₂ : R₁ →+* R} {B : M₁ →ₛₗ[I₁] M₁ →ₛₗ[I₂] M}
 
-theorem le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
+theorem IsRefl.le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I think you forgot to deprecate the old name here?

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 6]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+  ext x; simp
+
+@[deprecated (since := "2026-06-19")]
+alias _root_.LinearMap.orthogonal_span_singleton_eq_to_lin_ker := orthogonalBilin_span_singleton
+
+theorem orthogonalBilin_sSup (s : Set (Submodule R₁ M₁)) :
+    orthogonalBilin B (sSup s) = sInf (orthogonalBilin B '' s) := by
+  ext y; simpa using ⟨
+    fun h _ hS _ hx => h _ (le_sSup hS hx),
+    fun h _ hx => (mem_sSup.mp hx) (B.flip y).ker h⟩
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: can you extract that `⟨_,_⟩` as a `have :=` and then do `simpa using this` instead? It would be more readable that way, I think

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 7]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+  ⟨le_orthogonalBilin_of_le_orthogonalBilin, le_orthogonalBilin_of_le_orthogonalBilin⟩
+
+@[simp] theorem orthogonalBilin_orthogonalBilin_flip_orthogonalBilin (S) :
+    orthogonalBilin B (orthogonalBilin B.flip (orthogonalBilin B S)) = orthogonalBilin B S :=
+  le_antisymm (orthogonalBilin_le le_orthogonalBilin_orthogonalBilin)
+    le_orthogonalBilin_orthogonalBilin
+
+@[simp] theorem orthogonalBilin_flip_orthogonalBilin_orthogonalBilin_flip (S : Submodule R₂ M₂) :
+    orthogonalBilin B.flip (orthogonalBilin B (orthogonalBilin B.flip S))
+      = orthogonalBilin B.flip S :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
    orthogonalBilin B.flip (orthogonalBilin B (orthogonalBilin B.flip S)) =
      orthogonalBilin B.flip S :=
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 1 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:54]: Nothing wrong per se. But I intend to make this API parallel to `PointedCone.dual`, and over there it is called [`PointedCone.mem_dual`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Convex/Cone/Dual.html#PointedCone.mem_dual).

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:54]: Ah, can you say that in the description then please?

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 5 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I can't because this name is still in use but for a version that does not assume `IsRefl`.

Added this to the PR description.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 6 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Then I would need to specify the type of `⟨_,_⟩` because it cannot be inferred when its not after the `using`.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Well yeah, that's my point. It would be better for maintainability.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 5 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Ah, sorry I wasn't paying close enough attention.
Can you use that in this proof, just for the sake of it?

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Hm, it seems I can't. At least I don't see how.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Let's leave the proof as it is actually. The current proof is definitely better.

But here is the proof:
```lean
protected theorem IsRefl.le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
    S ≤ (S.orthogonalBilin B).orthogonalBilin B := by
  grw [le_orthogonalBilin_orthogonalBilin (B := B) (S := S)]
  simp [orthogonalBilin, b.eq_iff]
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 8]
```diff
@@ -90,22 +243,10 @@ theorem span_singleton_inf_orthogonal_eq_bot (B : V₁ →ₛₗ[J₁] V₁ →
...
-  · rintro h _ ⟨z, rfl⟩
-    rw [map_smulₛₗ₂, smul_eq_zero]
-    exact Or.intro_right _ h
-
 -- todo: Generalize this to sesquilinear maps
 theorem span_singleton_sup_orthogonal_eq_top {B : V →ₗ[K] V →ₗ[K] K} {x : V} (hx : B x x ≠ 0) :
     (K ∙ x) ⊔ (K ∙ x).orthogonalBilin B = ⊤ := by
-  rw [orthogonal_span_singleton_eq_to_lin_ker]
-  exact (B x).span_singleton_sup_ker_eq_top hx
+  simpa only [Submodule.orthogonalBilin_span_singleton] using (B x).span_singleton_sup_ker_eq_top hx
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
  simp only [Submodule.orthogonalBilin_span_singleton, span_singleton_sup_ker_eq_top _ hx]
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 9]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+/-- Every submodule is contained in the orthogonal complement of its orthogonal complement. -/
+theorem le_orthogonalBilin_orthogonalBilin :
+    S ≤ orthogonalBilin B.flip (orthogonalBilin B S) := fun _x hx _y hy ↦ hy _ hx
+
 section IsRefl
 
 variable {I₂ : R₁ →+* R} {B : M₁ →ₛₗ[I₁] M₁ →ₛₗ[I₂] M}
 
-theorem le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
+theorem IsRefl.le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I think this is what you meant for the name, right? :
```suggestion
theorem _root_.LinearMap.IsRefl.le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
```
right now it's `Submodule.IsRefl.`

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 10]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+  | mem _ hxs => exact h hxs
+  | zero => simp
+  | add _ _ _ _ hy hz => simp [hy, hz]
+  | smul _ _ _ hy => simp [hy]
+
+@[simp] theorem orthogonalBilin_bot : orthogonalBilin B ⊥ = ⊤ := by ext; simp
+
+@[simp] theorem orthogonalBilin_ker : orthogonalBilin B (ker B) = ⊤ := by ext; simp +contextual
+
+theorem orthogonalBilin_univ_eq_ker : orthogonalBilin B ⊤ = ker B.flip := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
theorem orthogonalBilin_top_eq_ker : orthogonalBilin B ⊤ = ker B.flip := by
```
or maybe just

```suggestion
theorem orthogonalBilin_top : orthogonalBilin B ⊤ = ker B.flip := by
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 11]
```diff
@@ -51,21 +51,174 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
 @[gcongr] theorem orthogonalBilin_le (h : S ≤ T) :
     orthogonalBilin B T ≤ orthogonalBilin B S := fun _ hy _ hx ↦ hy _ (h hx)
 
+alias orthogonalBilin_anti := orthogonalBilin_le
+
+theorem orthogonalBilin_antitone : Antitone (orthogonalBilin B) :=
+  fun _ _ h => orthogonalBilin_le h
+
+theorem ker_le_orthogonalBilin (S) : ker B.flip ≤ orthogonalBilin B S := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
theorem ker_flip_le_orthogonalBilin (S) : ker B.flip ≤ orthogonalBilin B S := by
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 10 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I will go for the first one. The reason is that in the future there will be a theorem that I cannot yet express that will state that for separable bilinear pairings we get bot.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 6 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Sorry. I tried but I can't find a proof that is more explicit without being super verbose. Could you help me here?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I guess your options for this are:

```suggestion
  ext y
  simp only [mem_orthogonalBilin, mem_sInf, Set.mem_image, forall_exists_index, and_imp,
    forall_apply_eq_imp_iff₂]
  exact ⟨fun h _ ha _ hn ↦ h _ (le_sSup ha hn), fun h _ hn ↦ mem_sSup.mp hn (B.flip y).ker h⟩
```

or

```suggestion
  ext y
  convert_to! (∀ n ∈ sSup s, B n y = 0) ↔ ∀ a ∈ s, ∀ n ∈ a, B n y = 0
  · simp
  exact ⟨fun h _ ha _ hn ↦ h _ (le_sSup ha hn), fun h _ hn ↦ mem_sSup.mp hn (B.flip y).ker h⟩
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 12]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+  obtain ⟨_, hx, _, hy, hxy⟩ := h
+  simp [← hxy, hx _ hS, hy _ hT]
+
+/-- The orthogonal submodule w.r.t. the standard bilinear pairing is the dual annihilator. -/
+theorem orthogonalBilin_dualAnnihilator (S) :
+    orthogonalBilin (Dual.eval R₁ M₁) S = S.dualAnnihilator := by
+  ext x; simp
+
+/-- The orthogonal submodule w.r.t. the identity pairing is the dual coannihilator. -/
+theorem orthogonalBilin_dualCoannihilator (S : Submodule R₁ (Dual R₁ M₁)) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: maybe this?
```suggestion
theorem orthogonalBilin_id_eq_dualCoannihilator (S : Submodule R₁ (Dual R₁ M₁)) :
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 13]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+variable [RingHomSurjective J₃] in
+@[simp] lemma orthogonalBilin_map (S : Submodule R₃ M₃) (q : M₃ →ₛₗ[J₃] M₁) :
+    orthogonalBilin B (S.map q) = orthogonalBilin (B.comp q) S := by ext; simp
+
+variable [RingHomSurjective I₁] in
+/-- Orthogonality w.r.t. a general bilinear map can be expressed as orthogonality w.r.t
+the identity pairing. -/
+lemma orthogonalBilin_eq_orthogonalBilin_id_map (S) :
+    orthogonalBilin B S = orthogonalBilin .id (map B S) := by simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: wouldn't this be better in the reverse (it'll have a shorter name)?

```suggestion
lemma orthogonalBilin_id_map (S) :
    orthogonalBilin .id (map B S) = orthogonalBilin B S := by simp
```
unless this name already exists and I missed it?

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 14]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+section
+
+variable {I₂ : R₂ →+* R₁} {B : M₁ →ₗ[R₁] M₂ →ₛₗ[I₂] R₁}
+
+/-- Orthogonality w.r.t. a general bilinear map can be expressed as orthogonality w.r.t
+the evaluation pairing. -/
+lemma orthogonalBilin_eq_comap_orthogonalBilin_eval (S) :
+    orthogonalBilin B S = comap B.flip (orthogonalBilin (Dual.eval R₁ M₁) S) := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: same here, maybe the reverse would look better?

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 15]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+  ext; simp
+
+variable (B) in
+theorem orthogonalBilin_comap_dualAnnihilator (S) :
+    orthogonalBilin B S = comap B.flip S.dualAnnihilator := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: and here

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 13 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: My understanding is that the reverse equality would be correct if this were a simp lemma. Instead, this here is a lemma used to "unpack"  a definition for cases when this appears helpful.

We could talk about whether it should be a simp lemma. This one maybe. The other two below maybe not?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Sorry, I missed this!
It can't really be a simp lemma since it's proven by simp.
Maybe you can keep it this way, hmm. I was just thinking that way because it had a shorter name. And you can always "unpack" by `rw [<- ..]`

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 15 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: the reverse of this looks like it could be a good simp lemma though?

**Comment by themathqueen** [comment]
I've assigned myself so it can stay on my to do list. Sorry for the very sporadic reviews.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 16]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+end
+
+section
+
+variable {I₁ : R₁ →+* R₂} {B : M₁ →ₛₗ[I₁] M₂ →ₗ[R₂] R₂}
+
+variable (B) [RingHomSurjective I₁] in
+theorem orthogonalBilin_map_dualCoannihilator (S) :
+    orthogonalBilin B S = (map B S).dualCoannihilator := by ext x; simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: this should either be called `orthogonalBilin_eq_map_dualCoannihilator`
or reverse the order and simply call it `dualCoannihilator_map`

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 17]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+    orthogonalBilin B.flip (orthogonalBilin B (orthogonalBilin B.flip S)) =
+      orthogonalBilin B.flip S :=
+  orthogonalBilin_orthogonalBilin_flip_orthogonalBilin S
+
+theorem orthogonalBilin_sup_orthogonalBilin_le_orthogonalBilin_inf (S T) :
+    orthogonalBilin B S ⊔ orthogonalBilin B T ≤ orthogonalBilin B (S ⊓ T) := by
+  intro _ h _ ⟨hS, hT⟩
+  simp only [mem_sup, mem_orthogonalBilin] at h
+  obtain ⟨_, hx, _, hy, hxy⟩ := h
+  simp [← hxy, hx _ hS, hy _ hT]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
    orthogonalBilin B S ⊔ orthogonalBilin B T ≤ orthogonalBilin B (S ⊓ T) :=
  sup_le (orthogonalBilin_le inf_le_left) (orthogonalBilin_le inf_le_right)
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 18]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+@[simp high] theorem mem_orthogonalBilin_span {s : Set M₁} {y : M₂} :
+    y ∈ orthogonalBilin B (span R₁ s) ↔ ∀ ⦃x⦄, x ∈ s → B x y = 0 := by
+  constructor <;> intro h x hx
+  · exact h _ (subset_span hx)
+  induction hx using span_induction with
+  | mem _ hxs => exact h hxs
+  | zero => simp
+  | add _ _ _ _ hy hz => simp [hy, hz]
+  | smul _ _ _ hy => simp [hy]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
  simpa using! span_le (p := LinearMap.ker (B.flip y))
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 19]
```diff
@@ -51,21 +51,175 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+@[simp] theorem mem_orthogonalBilin {m : M₂} :
   m ∈ S.orthogonalBilin B ↔ ∀ n ∈ S, B n m = 0 := .rfl
 
+@[deprecated (since := "2026-06-19")]
+alias mem_orthogonalBilin_iff := mem_orthogonalBilin
+
+theorem mem_orthogonalBilin_iff_le_ker_flip {y : M₂} :
+    y ∈ orthogonalBilin B S ↔ S ≤ ker (B.flip y) := .rfl
+
+@[simp high] theorem mem_orthogonalBilin_span {s : Set M₁} {y : M₂} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:64]: maybe add a note above here saying why you set the simp to high

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 16 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I reversed and called it `dualCoannihilator_map_eq_orthogonalBilin` because I feel all names here should include `orthogonalBilin`.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 20]
```diff
@@ -51,21 +51,166 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+@[deprecated (since := "2026-06-19")]
+alias _root_.LinearMap.orthogonal_span_singleton_eq_to_lin_ker := orthogonalBilin_span_singleton
+
+theorem orthogonalBilin_sSup (s : Set (Submodule R₁ M₁)) :
+    orthogonalBilin B (sSup s) = sInf (orthogonalBilin B '' s) := by
+  ext y
+  simp only [mem_orthogonalBilin, mem_sInf, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+  exact ⟨fun h _ ha _ hn ↦ h _ (le_sSup ha hn), fun h _ hn ↦ mem_sSup.mp hn (B.flip y).ker h⟩
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:100]: I think if you add the Galois connection, just like we have for [Submodule.orthogonal_gc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Orthogonal.html#Submodule.orthogonal_gc):
```lean
lemma orthogonalBilin_gc :
    @GaloisConnection (Submodule R₁ M₁) (Submodule R₂ M₂)ᵒᵈ _ _
      (orthogonalBilin B) (orthogonalBilin B.flip) :=
  fun _ _ ↦ ⟨fun h _ hx _ hy ↦ h hy _ hx, fun h _ hy _ hx ↦ h hx _ hy⟩
```
then you can essentially simplify every proof here I think, for example this would become:

```suggestion
theorem orthogonalBilin_sSup (s : Set (Submodule R₁ M₁)) :
    orthogonalBilin B (sSup s) = ⨅ S ∈ s, orthogonalBilin B S :=
  (orthogonalBilin_gc B).l_sSup
```
note that I changed the right hand side.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean:100]: You can take a look at the `Submodule.orthogonal_gc` and the code surrounding that to get an idea

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: I like `orthogonalBilin_gc`. But I am torn about the change to the right hand side. I have seen both `sSup (f '' s)` and `⨅ x ∈ s, f x` on the right hand side in mathlib. Is there some best practice?

I came to prefer `f (sSup s) = sSup (f '' s)` because it preserves the shape and enables direct chaining if used throughout: `f (g (sSup s)) --> f (sSup (g '' s)) --> sSup (f '' (g '' s))`.

I could add the shape-preserving version to `GaloisConenction` and us it here. 🤔

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 21]
```diff
@@ -51,21 +51,170 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+lemma orthogonalBilin_gc :
+    @GaloisConnection (Submodule R₁ M₁) (Submodule R₂ M₂)ᵒᵈ _ _
+      (orthogonalBilin B) (orthogonalBilin B.flip) :=
+  fun _ _ ↦ ⟨fun h _ hx _ hy ↦ h hy _ hx, fun h _ hy _ hx ↦ h hx _ hy⟩
+
+theorem le_orthogonalBilin_of_le_orthogonalBilin {T : Submodule R₂ M₂}
+    (hST : T ≤ orthogonalBilin B S) : S ≤ orthogonalBilin B.flip T :=
+  ((orthogonalBilin_gc B) S T).mp hST
+
+theorem le_orthogonalBilin_iff_le_orthogonalBilin {T : Submodule R₂ M₂} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]:
```suggestion
theorem le_orthogonalBilin_flip_iff_le_orthogonalBilin {T : Submodule R₂ M₂} :
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 22]
```diff
@@ -51,21 +51,170 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+variable (B) in
+lemma orthogonalBilin_gc :
+    @GaloisConnection (Submodule R₁ M₁) (Submodule R₂ M₂)ᵒᵈ _ _
+      (orthogonalBilin B) (orthogonalBilin B.flip) :=
+  fun _ _ ↦ ⟨fun h _ hx _ hy ↦ h hy _ hx, fun h _ hy _ hx ↦ h hx _ hy⟩
+
+theorem le_orthogonalBilin_of_le_orthogonalBilin {T : Submodule R₂ M₂}
+    (hST : T ≤ orthogonalBilin B S) : S ≤ orthogonalBilin B.flip T :=
+  ((orthogonalBilin_gc B) S T).mp hST
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: move this below the iff version and then do `alias ⟨_, le_orthogonalBilin_flip_of_le_orthogonBilin⟩ := le_orthogonalBilin_flip_iff_le_orthogonalBilin`

**Review by themathqueen — COMMENTED** [review]
this is looking much better :)

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 23]
```diff
@@ -51,21 +51,169 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+    orthogonalBilin B (S ⊔ T) = orthogonalBilin B S ⊓ orthogonalBilin B T :=
+  (orthogonalBilin_gc B).l_sup
+
+variable (B) in
+@[simp] theorem orthogonalBilin_sup_ker (S) :
+    orthogonalBilin B (S ⊔ ker B) = orthogonalBilin B S := by
+  simp [orthogonalBilin_sup]
+
+/-- Every submodule is contained in the orthogonal complement of its orthogonal complement. -/
+theorem le_orthogonalBilin_orthogonalBilin :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: let's name this
```suggestion
theorem le_orthogonalBilin_flip_orthogonalBilin :
```

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 24]
```diff
@@ -51,21 +51,169 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+    S ≤ orthogonalBilin B.flip (orthogonalBilin B S) := (orthogonalBilin_gc B).le_u_l S
 
 section IsRefl
 
 variable {I₂ : R₁ →+* R} {B : M₁ →ₛₗ[I₁] M₁ →ₛₗ[I₂] M}
 
-theorem le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
+theorem _root_.LinearMap.IsRefl.le_orthogonalBilin_orthogonalBilin (b : B.IsRefl) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: If you go for the previous naming suggestion, then you'll need to add a deprecation here I think

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 25]
```diff
@@ -51,21 +51,173 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+@[simp] theorem orthogonalBilin_id_eq_dualCoannihilator (S : Submodule R₁ (Dual R₁ M₁)) :
+    orthogonalBilin .id S = S.dualCoannihilator := by ext; simp
+
+variable {R₃ : Type*} [CommSemiring R₃]
+variable {M₃ : Type*} [AddCommMonoid M₃] [Module R₃ M₃]
+variable {J₃ : R₃ →+* R₁} {J : R₃ →+* R} [RingHomCompTriple J₃ I₁ J]
+
+variable [RingHomSurjective J₃] in
+@[simp] lemma orthogonalBilin_map (S : Submodule R₃ M₃) (q : M₃ →ₛₗ[J₃] M₁) :
+    orthogonalBilin B (S.map q) = orthogonalBilin (B.comp q) S := by ext; simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: are you sure this is a good simp lemma?

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: No, happy to remove the simp.

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 24 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: If we don't need the name `le_orthogonalBilin_orthogonalBilin` somewhere else, we could go back using it for what is now `LinearMap.IsRefl.le_orthogonalBilin_orthogonalBilin` and avoid the deprecation. What do you think?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Either way sounds good to me

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean [hunk 26]
```diff
@@ -51,21 +51,173 @@ def orthogonalBilin : Submodule R₂ M₂ where
...
+
+section
+
+variable {I₁ : R₁ →+* R₂} {B : M₁ →ₛₗ[I₁] M₂ →ₗ[R₂] R₂}
+
+variable (B) [RingHomSurjective I₁] in
+theorem dualCoannihilator_map_eq_orthogonalBilin (S) :
+    (map B S).dualCoannihilator = orthogonalBilin B S := by ext x; simp
+
+end
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: why not just put all the variables in the lemma, that way you don't need an unnamed section here

**Review by themathqueen — COMMENTED** [review]
I think it's now ready for another look, thanks!

maintainer delegate

File: Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean (hunk 24 above)
Comment (martinwintermath) [reply Mathlib/LinearAlgebra/SesquilinearForm/Orthogonal.lean]: Okay, I change the name back to `le_orthogonalBilin_orthogonalBilin`.

**Comment by ocfnash** [comment]
Thanks!

bors merge
